US04041032
In 14 ml. of isopropyl alcohol were dissolved 1.4 g. of methyl 6-chloro-5-ethylamino-3-methoxypyrazine-2-carboxylate and 1.4 g. of N,N-diethylethylenediamine and the solution was refluxed for 4 days. After the reaction was over, the solvent was distilled off under reduced pressure from the reaction mixture and the residue obtained was applied to a silica gel column chromatography. The column was then developed using a mixture of ether and N-hexane of 1:1 volume ratio as an eluting solution. From the 1st fraction 0.7 g. of methyl 5-ethylamino-6-chloro-3-methoxypyrazine-2-carboxylate used as the starting material was recovered and from the 2nd fraction 0.7 g. of colorless plate crystals of N-(2-diethylaminoethyl)-6-chloro-5-ethylamino-3-methoxypyrazine-2-carboxamide a melting at 142° C. were obtained. The product obtained by recrystallizing the crystals from a mixture of benzene and n-hexane melted at 142° C.

reactant | isopropyl alcohol | C(C)(C)O | C3H8O
reactant | methyl 6-chloro-5-ethylamino-3-methoxypyrazine-2-carboxylate | ClC1=C(N=C(C(=N1)C(=O)OC)OC)NCC | C9H12ClN3O3
reactant | N,N-diethylethylenediamine | C(C)N(CCN)CC | C6H16N2
reactant | methyl 5-ethylamino-6-chloro-3-methoxypyrazine-2-carboxylate | C(C)NC=1N=C(C(=NC1Cl)C(=O)OC)OC | C9H12ClN3O3
solvent | ether | CCOCC | C4H10O
product | N-(2-diethylaminoethyl)-6-chloro-5-ethylamino-3-methoxypyrazine-2-carboxamide | C(C)N(CCNC(=O)C1=NC(=C(N=C1OC)NCC)Cl)CC | C14H24ClN5O2
